US07037925B2
3-[(Ethylamino)methyl]-2-methylaniline
N-(2-methyl-3-nitrobenzyl)-1-ethanamine (0.46 g, 2.3 mmol) was hydrogenated over 5% palladium-charcoal 80 mg in EtOAc/EtOH 1:1 (14 ml) for four hours. The mixture was filtered through celite, and the filtrate was concentrated to give the title compound 0.373 g (97%) as a pale yellow oil.

reactant | N-(2-methyl-3-nitrobenzyl)-1-ethanamine | 2.3 mmol, 0.46 g | CC1=C(CNCC)C=CC=C1[N+](=O)[O-] | C10H14N2O2
solvent | EtOAc EtOH | 14 ml | CCOC(=O)C.CCO
catalyst | palladium-charcoal | 80 mg | [Pd] | Pd
product | 3-[(Ethylamino)methyl]-2-methylaniline | 0.373 g, 97% | C(C)NCC=1C(=C(N)C=CC1)C | C10H16N2
